US04772613
2-Azido-4-chlorobenzoic acid (130 g) was stirred with thionyl chloride (52 ml) in dry toluene at room temperature for 24 hours. The solution was evaporated to give crude 2-azido-4-chlorobenzoyl chloride. This product (14.2 g) was added to a solution of 2,4-dichloroaniline (10.65 g) in dry pyridine (70 ml) and the mixture stirred for 25 mins. It was then poured into ice-water and the precipitate filtered off, washed with water, sucked dry, heated in boiling ethanol and the residue filtered off, washed with ethanol and air-dried to give 2-azido-4-chloro-N-(2,4-dichlorophenyl)benzamide, m.p. 169.5° C. (dec.)

reactant | 2-Azido-4-chlorobenzoic acid | 130 g | N(=[N+]=[N-])C1=C(C(=O)O)C=CC(=C1)Cl | C7H4ClN3O2
reactant | thionyl chloride | 52 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2,4-dichloroaniline | 10.65 g | ClC1=C(N)C=CC(=C1)Cl | C6H5Cl2N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
product | 2-azido-4-chloro-N-(2,4-dichlorophenyl)benzamide | N(=[N+]=[N-])C1=C(C(=O)NC2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C13H7Cl3N4O
